US07060702B2
2-(4-Fluoro-2-methyl-phenyl)-piperidine-4-one
2-Methyl-4-fluoro-benzaldehyde (4 g) was added to a solution of 4-aminobutan-2-one ethylene acetal (3.8 g) in dry benzene (50 mL) and the solution was stirred at r.t. under a nitrogen atmosphere. After 1 hour the mixture was heated at reflux for 16 hours and then allowed to cool to r.t. This solution was slowly added to a refluxing solution of p-toluensulphonic acid (10.6 g) in dry benzene (50 mL) previously refluxed for 1 hour with a Dean-Stark apparatus. After 3.5 hours the crude solution was cooled and made basic with a saturated potassium carbonate solution and taken up with AcOEt (50 mL). The aqueous phase was extracted with AcOEt (3×50 mL) and Et2O (2×50 mL). The organic layer was dried and concentrated in vacuo to a yellow thick oil as residue (7.23 g). A portion of the crude mixture (3 g) was dissolved in a 6N hydrochloric acid solution (20 mL) and stirred at 60° C. for 16 hours. The solution was basified with solid potassium carbonate and extracted with DCM (5×50 mL). The combined organic phases were washed with brine (50 mL), dried and concentrated in vacuo to give the title compound (2.5 g) as a thick yellow oil.

reactant | 2-Methyl-4-fluoro-benzaldehyde | 4 g | CC1=C(C=O)C=CC(=C1)F | C8H7FO
reactant | 4-aminobutan-2-one ethylene acetal | 3.8 g | C1COC(C)(CCN)O1 | C6H13NO2
reactant | p-toluensulphonic acid | 10.6 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 mL | C1=CC=CC=C1 | C6H6
solvent | AcOEt | 50 mL | CCOC(=O)C | C4H8O2
product | 2-(4-Fluoro-2-methyl-phenyl)-piperidine-4-one | 2.5 g | FC1=CC(=C(C=C1)C1NCCC(C1)=O)C | C12H14FNO
